US07037935B2
A solution of 105 mg (0.3 mmol) of (RS)-1-[6-(4-fluoro-benzyloxy)-pyridin-3-yl]-5-oxo-pyrrolidine-3-carboxylic acid in 5 ml N,N-dimethylformamide is treated with 58 mg (0.35 mmol) of N,N-carbonyl-diimidazole, and the mixture is stirred at RT for 15 min. Thereafter, 26 mg (0.38 mmol) of methylamine hydrochloride and 50 μl (0.35 mmol) of triethylamine are added. After 30 min, the solvent is evaporated under reduced pressure and the residue is chromatographed on silica gel using a 98:2-mixture of dichloromethane and methanol as the eluent. There are obtained 15 mg (15% of theory) of (RS)-1-[6-(4-fluoro-benzyloxy)-pyridin-3-yl]-5-oxo-pyrrolidine-3-carboxylic acid methylamide as a green oil which solidifies on standing. MS: m/e=344 (M+H)+.

reactant | (RS)-1-[6-(4-fluoro-benzyloxy)-pyridin-3-yl]-5-oxo-pyrrolidine-3-carboxylic acid | 0.3 mmol, 105 mg | FC1=CC=C(COC2=CC=C(C=N2)N2CC(CC2=O)C(=O)O)C=C1 | C17H15FN2O4
reactant | methylamine hydrochloride | 0.38 mmol, 26 mg | Cl.CN
reactant | triethylamine | 0.35 mmol, 50 μl | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (RS)-1-[6-(4-fluoro-benzyloxy)-pyridin-3-yl]-5-oxo-pyrrolidine-3-carboxylic acid methylamide | 15 mg, 15% | CNC(=O)C1CN(C(C1)=O)C=1C=NC(=CC1)OCC1=CC=C(C=C1)F | C18H18FN3O3
